data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1c(C)cccc1Cl)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1c(C)cccc1Cl)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1c(C)cccc1Cl)C(C)C", "products": "Cc1cccc(Cl)c1[Si]1(c2ccccc2)OC(C(C)C)C[CH]2[CH2][RhH]21"}, {"reactants": "Cc1cccc(Cl)c1[Si]1(c2ccccc2)OC(C(C)C)C[CH]2[CH2][RhH]21", "products": "Cc1cccc(Cl)c1[Si]1(c2ccccc2)OC(C(C)C)CC1[CH2][RhH]"}, {"reactants": "Cc1cccc(Cl)c1[Si]1(c2ccccc2)OC(C(C)C)CC1[CH2][RhH].[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "Cc1cccc(Cl)c1[Si]1(c2ccccc2)OC(C(C)C)CC1C[C](=O)[RhH]"}, {"reactants": "Cc1cccc(Cl)c1[Si]1(c2ccccc2)OC(C(C)C)CC1C[C](=O)[RhH]", "products": "Cc1cccc(Cl)c1[Si]1(c2ccccc2)OC(C(C)C)CC1CC=O.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "Cc1ccc(Br)c(N(C)C(=O)C2=CCCC2)c1F.[Pd]", "products": "Cc1cc[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)c1F"}, {"reactants": "Cc1cc[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)c1F", "products": "Cc1ccc2c(c1F)C1(CCC[CH]1[Pd][Br])C(=O)N2C"}, {"reactants": "Cc1ccc2c(c1F)C1(CCC[CH]1[Pd][Br])C(=O)N2C", "products": "Cc1ccc2c(c1F)C1(C=CCC1)C(=O)N2C.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "CN(C(=O)C1=CCCC1)c1c(F)ccc(F)c1Br.[Pd]", "products": "CN(C(=O)C1=CCCC1)c1c(F)ccc(F)[c]1[Pd][Br]"}, {"reactants": "CN(C(=O)C1=CCCC1)c1c(F)ccc(F)[c]1[Pd][Br]", "products": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2c(F)ccc(F)c21"}, {"reactants": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2c(F)ccc(F)c21", "products": "CN1C(=O)C2(C=CCC2)c2c(F)ccc(F)c21.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1cc(Cl)c(NN=CCc2ccccc2)cc1OC.Cl[Zn]Cl", "products": "COc1cc(Cl)c(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1OC"}, {"reactants": "COc1cc(Cl)c(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1OC", "products": "COc1cc(Cl)c(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1OC.[H+]"}, {"reactants": "COc1cc(Cl)c(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1OC", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cc(Cl)ccc2OC)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cc(Cl)ccc2OC)C(=N)C=C1", "products": "COc1cc(Cl)c(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1OC"}, {"reactants": "COc1cc(Cl)c(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1OC", "products": "COc1cc(Cl)c2c(c1OC)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2"}, {"reactants": "COc1cc(Cl)c2c(c1OC)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2.[H+]", "products": "COc1cc(Cl)c2c(c1OC)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2"}, {"reactants": "COc1cc(Cl)c2c(c1OC)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2", "products": "COc1cc(Cl)c2c(c1OC)C(c1ccccc1)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc(Cl)c2c(c1OC)C(c1ccccc1)C=[NH+]2", "products": "COc1cc(Cl)c2[nH]cc(-c3ccccc3)c2c1OC.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "CC1(C)C2CCC1(C)C(O)(c1cccc(F)c1Cl)C(=O)C2.[H+]", "products": "CC1(C)C2CCC1(C)C([OH2+])(c1cccc(F)c1Cl)C(=O)C2"}, {"reactants": "CC1(C)C2CCC1(C)C([OH2+])(c1cccc(F)c1Cl)C(=O)C2", "products": "CC12CCC(CC(=O)[C+]1c1cccc(F)c1Cl)C2(C)C.O"}, {"reactants": "CC12CCC(CC(=O)[C+]1c1cccc(F)c1Cl)C2(C)C", "products": "C[C+]1C2(c3cccc(F)c3Cl)CCC(CC2=O)C1(C)C"}, {"reactants": "C[C+]1C2(c3cccc(F)c3Cl)CCC(CC2=O)C1(C)C", "products": "CC1=C(c2cccc(F)c2Cl)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2cccc(F)c2Cl)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2cccc(F)c2Cl)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2cccc(F)c2Cl)CCC(C(=O)[OH2+])C1(C)C", "products": "C[C+]1C(c2cccc(F)c2Cl)CCC(C(=O)O)C1(C)C"}, {"reactants": "C[C+]1C(c2cccc(F)c2Cl)CCC(C(=O)O)C1(C)C", "products": "CC1(C)C2CCC(c3cccc(F)c3Cl)C1(C)[OH+]C2=O"}, {"reactants": "CC1(C)C2CCC(c3cccc(F)c3Cl)C1(C)[OH+]C2=O", "products": "CC1(C)C2CCC(c3cccc(F)c3Cl)C1(C)OC2=O.[H+]"}]}
